US05948820
(6) 3-Acetamido-6-acetoxy-3-[2-(4-octylphenyl)ethyl]hexyl acetate
To a solution of 3-acetamido-6-acetoxy-3-[2-(4-octanoylphenyl)ethyl]hexyl acetate (720 mg) in trifluoroacetic acid (15 ml), triethylsilane (0.53 ml) was added at room temperature. After stirring for an hour, the reaction solution was poured into ice-water and potassium carbonate was carefully added to the mixture to neutralize. The mixture was extracted with ethyl acetate and the extract was washed with water and a saturated brine and dried over anhydrous magnesium sulfate. The solvent was distilled away and the residue obtained was purified by silica gel chromatography (eluent; hexane-ethyl acetate=1:1) to give the subject compound (450 mg) as a colorless oily substance.

reactant | 3-acetamido-6-acetoxy-3-[2-(4-octanoylphenyl)ethyl]hexyl acetate | 720 mg | C(C)(=O)OCCC(CCCOC(C)=O)(CCC1=CC=C(C=C1)C(CCCCCCC)=O)NC(C)=O | C28H43NO6
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | trifluoroacetic acid | 15 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | triethylsilane | 0.53 ml | C(C)[SiH](CC)CC | C6H16Si
product | 3-Acetamido-6-acetoxy-3-[2-(4-octylphenyl)ethyl]hexyl acetate | 450 mg | C(C)(=O)OCCC(CCCOC(C)=O)(CCC1=CC=C(C=C1)CCCCCCCC)NC(C)=O | C28H45NO5
